US06852726B2
To a solution of indole-3-carboxylic acid (4.81 g, 30 mmole) in acetic acid (50 ml), bromine was added dropwise with stirring at 15° C. After stirring overnight at room temperature the reaction mixture was set aside without stirring for 24 hours during which time pure product crystallized from solution. The precipitate was collected and dried to afford 1.29 g pure 6-bromoindole-3-carboxylic acid. The mother liquor was poured into water (250 ml) and another crop of product was obtained (3.84 g) as a 1:1 mixture of the 6-bromo- and the 5-bromoindole-3-carboxylic acid.

reactant | indole-3-carboxylic acid | 30 mmole, 4.81 g | N1C=C(C2=CC=CC=C12)C(=O)O | C9H7NO2
reactant | bromine | BrBr | Br2
solvent | acetic acid | 50 ml | C(C)(=O)O | C2H4O2
product | 6-bromoindole-3-carboxylic acid | 1.29 g | BrC1=CC=C2C(=CNC2=C1)C(=O)O | C9H6BrNO2
